US07601742B2
13.1 Preparation of 3-(2-benzyloxy-4-methoxyphenyl)-4-nitrobutyric acid ethyl ester
To a dry round bottom flask was added 3.5 mL of diisopropylamine and 20 mL THF under N2. The solution was cooled to −78° C. and stirred. A solution of n-BuLi (15 mL, 1.6 mL) was added and the reaction mixture was stirred for an additional 20 min. EtOAc (2.0 mL in 10 mL THF) was added slowly at −78° C. and the resulting solution was stirred for 20 min. 2-Benzyl-4-methoxy-1-(2-nitrovinyl)benzene (5.46 g, 19.1 mmol) was added (in 30 mL THF) and stirred for 2 h. The mixture was slowly warmed up to r.t. and quenched with sat. NH4Cl solution. The mixture was extracted with EtOAc (2×100 mL), washed with water and brine, and then dried. After removal of the solvent, the residue was purified on silica gel to give 5.3 g of the desired product. Yield: 74%.

reactant | diisopropylamine | 3.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 15 mL | [Li]CCCC
reactant | EtOAc | 2.0 mL | CCOC(=O)C | C4H8O2
reactant | 2-Benzyl-4-methoxy-1-(2-nitrovinyl)benzene | 19.1 mmol, 5.46 g | C(C1=CC=CC=C1)C1=C(C=CC(=C1)OC)C=C[N+](=O)[O-] | C16H15NO3
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(2-benzyloxy-4-methoxyphenyl)-4-nitrobutyric acid ethyl ester | 5.3 g, Yield: 74% | C(C)OC(CC(C[N+](=O)[O-])C1=C(C=C(C=C1)OC)OCC1=CC=CC=C1)=O | C20H23NO6
